data/oMe_Silver.jsonl
{"reaction_id": "NR-325_1-CCCCCC_2-c1c(F)c(F)c(F)c(F)c1F","level": "medium","name": "Wolff-Kishner Reduction","reactants_smiles": ["C(=O)(CCCCCC)c1c(F)c(F)c(F)c(F)c1F","NN","[OH-]"],"products_smiles": ["C(CCCCCC)c1c(F)c(F)c(F)c(F)c1F"],"conditions": "Strong base (e.g., KOH), High temperature","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(=NN)(CCCCCC)c1c(F)c(F)c(F)c(F)c1F","step_weight": 0,"rationale": "The carbonyl carbon is electrophilic; hydrazine attacks to form a hydrazone, driven by resonance stabilization of the C=N bond and removal of the polar C=O under basic conditions."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](N=N)(CCCCCC)c1c(F)c(F)c(F)c(F)c1F","step_weight": 0,"rationale": "Strong base deprotonates the α-carbon of the hydrazone, favored by the adjacent electron-withdrawing N=N group stabilizing the carbanion via resonance."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(N=N)(CCCCCC)c1c(F)c(F)c(F)c(F)c1F","step_weight": 0,"rationale": "Proton transfer to nitrogen occurs to prepare a good leaving group, as protonated nitrogen facilitates N₂ elimination."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[CH-](CCCCCC)c1c(F)c(F)c(F)c(F)c1F","step_weight": 0,"rationale": "Elimination of N₂ gas is highly favorable due to its inertness and strong triple bond, driving formation of a carbanion intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CCCCCC)c1c(F)c(F)c(F)c(F)c1F","step_weight": 0,"rationale": "The carbanion is protonated by solvent or conjugate acid, yielding the thermodynamically stable alkane product."}],"description": "Under strongly basic, high-temperature conditions, the Wolff–Kishner reduction converts a carbonyl into a methylene group via hydrazone formation, deprotonation, nitrogen elimination, and final protonation. The driving force is the formation of stable N₂ gas and the thermodynamic stability of the alkane."}
{"reaction_id": "NR-102_1-C1CCCCC1_2-CC_3-c1ccccc1","level": "medium","name": "Hantzsch Thiazole Synthesis","reactants_smiles": ["C(C1CCCCC1)(=S)N","C(c1ccccc1)(=O)C(CC)Cl"],"products_smiles": ["C1CCCCC1c1nc(c1ccccc1)c(CC)s1"],"conditions": "","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(C1CCCCC1)(=[NH2+])SC(CC)C(c1ccccc1)(=O)","step_weight": 0,"rationale": "The thioamide nitrogen is nucleophilic due to resonance with the C=S group, attacking the electrophilic α-carbon of the haloketone, where the carbon is activated by the adjacent electron-withdrawing carbonyl."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)(=N)SC(CC)C(c1ccccc1)(=[OH+])","step_weight": 0,"rationale": "Proton transfer neutralizes the nitrogen and protonates the carbonyl oxygen, increasing electrophilicity for subsequent nucleophilic attack and stabilizing the intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CCCCC1C1=[NH+]C(c1ccccc1)(O)C(CC)S1","step_weight": 0,"rationale": "The deprotonated nitrogen attacks the protonated carbonyl carbon intramolecularly, favored by proximity and the electrophilicity enhanced by protonation, initiating ring closure."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1CCCCC1C1=NC(c1ccccc1)([OH2+])C(CC)S1","step_weight": 0,"rationale": "Proton transfer from the hydroxyl group to a leaving group site prepares the intermediate for elimination, stabilizing the developing positive charge on oxygen."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1CCCCC1c1nc(c1ccccc1)c(CC)s1","step_weight": 0,"rationale": "Elimination of water occurs, driven by formation of the aromatic thiazole ring, which is thermodynamically favored due to aromatic stabilization."}],"description": "The reaction proceeds via nucleophilic substitution of the thioamide nitrogen onto the α-haloketone, followed by proton transfers and cyclization to form the thiazole ring. Acid-base steps facilitate intermediate stability, and elimination yields the aromatic heterocycle."}
